*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7849
* Inductance = 84000000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt TA7849_freq port1 port2 PARAMS: Cpar=0.17pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.1
+ C= {Cpar}
+ K1=0.00004
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7849_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7849
* Inductance = 84000000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt TA7849_imp port1 port2 PARAMS: Cpar=0pF Ind=39nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.1
+ C= {Cpar}
+ K1=0.00004
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7849_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7850
* Inductance = 85nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt TA7850_freq port1 port2 PARAMS: Cpar=0.21pF Ind=47nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.04
+ C= {Cpar}
+ K1=0.000044
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7850_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7850
* Inductance = 85nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt TA7850_imp port1 port2 PARAMS: Cpar=0pF Ind=47nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.04
+ C= {Cpar}
+ K1=0.000044
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7850_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7851
* Inductance = 850nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt TA7851_freq port1 port2 PARAMS: Cpar=0.19pF Ind=56nH
X1 port1 port2 Model2A PARAMS:
+ R1=8
+ R2=0.08
+ C= {Cpar}
+ K1=0.000052
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7851_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7851
* Inductance = 850nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt TA7851_imp port1 port2 PARAMS: Cpar=0pF Ind=56nH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.08
+ C= {Cpar}
+ K1=0.000052
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7851_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7852
* Inductance = 8.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt TA7852_freq port1 port2 PARAMS: Cpar=0.16pF Ind=68nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.1
+ C= {Cpar}
+ K1=0.00006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7852_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : TA7852
* Inductance = 8.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt TA7852_imp port1 port2 PARAMS: Cpar=0pF Ind=68nH
X1 port1 port2 Model1D PARAMS:
+ R1=18
+ R2=0.1
+ C= {Cpar}
+ K1=0.00006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends TA7852_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6691
* Inductance = 690nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PA6691_freq port1 port2 PARAMS: Cpar=0.2pF Ind=80nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.1
+ C= {Cpar}
+ K1=0.00005
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6691_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6691
* Inductance = 690nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PA6691_imp port1 port2 PARAMS: Cpar=0pF Ind=80nH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.1
+ C= {Cpar}
+ K1=0.00005
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6691_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6692
* Inductance = 6.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PA6692_freq port1 port2 PARAMS: Cpar=0.19pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.13
+ C= {Cpar}
+ K1=0.000064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6692_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6692
* Inductance = 6.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PA6692_imp port1 port2 PARAMS: Cpar=0pF Ind=100nH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.13
+ C= {Cpar}
+ K1=0.000064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6692_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6693
* Inductance = 69uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PA6693_freq port1 port2 PARAMS: Cpar=0.24pF Ind=120nH
X1 port1 port2 Model2A PARAMS:
+ R1=22
+ R2=0.15
+ C= {Cpar}
+ K1=0.000064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6693_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PA6693
* Inductance = 69uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PA6693_imp port1 port2 PARAMS: Cpar=0pF Ind=120nH
X1 port1 port2 Model1D PARAMS:
+ R1=22
+ R2=0.15
+ C= {Cpar}
+ K1=0.000064
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends PA6693_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4031
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4031_freq port1 port2 PARAMS: Cpar=0.277pF Ind=150nH
X1 port1 port2 Model2A PARAMS:
+ R1=18
+ R2=0.11
+ C= {Cpar}
+ K1=0.000072
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27068.0574
.ends HA4031_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4031
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4031_imp port1 port2 PARAMS: Cpar=0.277pF Ind=150nH
X1 port1 port2 Model1D PARAMS:
+ R1=18
+ R2=0.11
+ C= {Cpar}
+ K1=0.000072
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27068.0574
.ends HA4031_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4032
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4032_freq port1 port2 PARAMS: Cpar=0.291pF Ind=180nH
X1 port1 port2 Model2A PARAMS:
+ R1=20
+ R2=0.11
+ C= {Cpar}
+ K1=0.000084
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27853.167
.ends HA4032_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4032
* Inductance = 0.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4032_imp port1 port2 PARAMS: Cpar=0.291pF Ind=180nH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.11
+ C= {Cpar}
+ K1=0.000084
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27853.167
.ends HA4032_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4033
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4033_freq port1 port2 PARAMS: Cpar=0.296pF Ind=220nH
X1 port1 port2 Model2A PARAMS:
+ R1=21
+ R2=0.105
+ C= {Cpar}
+ K1=0.000106
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31440.0675
.ends HA4033_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4033
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4033_imp port1 port2 PARAMS: Cpar=0.296pF Ind=220nH
X1 port1 port2 Model1D PARAMS:
+ R1=21
+ R2=0.105
+ C= {Cpar}
+ K1=0.000106
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=31440.0675
.ends HA4033_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4034
* Inductance = 30uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4034_freq port1 port2 PARAMS: Cpar=0.233pF Ind=270nH
X1 port1 port2 Model2A PARAMS:
+ R1=25
+ R2=0.1
+ C= {Cpar}
+ K1=0.000125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41178.3072
.ends HA4034_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4034
* Inductance = 30uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4034_imp port1 port2 PARAMS: Cpar=0.233pF Ind=270nH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.1
+ C= {Cpar}
+ K1=0.000125
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=41178.3072
.ends HA4034_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4035
* Inductance = 300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4035_freq port1 port2 PARAMS: Cpar=0.255pF Ind=330nH
X1 port1 port2 Model2A PARAMS:
+ R1=24
+ R2=0.1
+ C= {Cpar}
+ K1=0.000166
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46414.376
.ends HA4035_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4035
* Inductance = 300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4035_imp port1 port2 PARAMS: Cpar=0.255pF Ind=330nH
X1 port1 port2 Model1D PARAMS:
+ R1=24
+ R2=0.1
+ C= {Cpar}
+ K1=0.000166
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46414.376
.ends HA4035_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4036
* Inductance = 3000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt HA4036_freq port1 port2 PARAMS: Cpar=0.234pF Ind=390nH
X1 port1 port2 Model2A PARAMS:
+ R1=28
+ R2=0.105
+ C= {Cpar}
+ K1=0.000198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=51224.0802
.ends HA4036_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : HA4036
* Inductance = 3000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt HA4036_imp port1 port2 PARAMS: Cpar=0.234pF Ind=390nH
X1 port1 port2 Model1D PARAMS:
+ R1=28
+ R2=0.105
+ C= {Cpar}
+ K1=0.000198
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=51224.0802
.ends HA4036_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
